US06399629B1
(B) trans-4-Glycylamino-L-Proline 4-Phenoxyphenylamide Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (8 mL) was added to a solution of trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-phenoxyphenylamide (A, 249 mg) in 1,4-dioxane (8 mL) at room temperature. After stirring at room temperature for 1 hr, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the title compound (140 mg) as a white powder: 1H NMR (400 MHz, D2O) δ 2.61 (t, J=6.35 Hz, 2 H), 3.49 (dd, J=4.88, 12.21 Hz, 1 H), 3.84 (t, J=6.35 Hz, 1H), 3.87 (s, 2 H), 4.64 (m, 1 H), 4.78 (m, 1H), 7.09 (m, 4 H), 7.23 (t, J=7.3 Hz, 1H), and 7.46 (m, 4 H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-phenoxyphenylamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1N(C[C@@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C29H38N4O7
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | trans-4-Glycylamino-L-Proline 4-Phenoxyphenylamide Dihydrochloride | 140 mg | Cl.Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1NC[C@@H](C1)NC(CN)=O)=O | InChI=1S/C19H22N4O3.2ClH/c20-11-18(24)22-14-10-17(21-12-14)19(25)23-13-6-8-16(9-7-13)26-15-4-2-1-3-5-15;;/h1-9,14,17,21H,10-12,20H2,(H,22,24)(H,23,25);2*1H/t14-,17+;;/m1../s1
